US06780996B2
A mixture of 7-fluoro-6-methoxy-4-oxo-1,4-dihydro-3-quinolinecarbonitrile (1.0 g, 4.59 mmol) and 14 g of phosphorous oxychloride is heated at reflux for 30 minutes then concentrated in vacuo. The residue is partitioned between aqueous sodium bicarbonate and ethyl acetate. The organic layer is dried over magnesium sulfate, filtered and concentrated on to silica gel. Purification by flash column chromatography eluting with a gradient of 1:5 ethyl acetate:hexane to 1:1 ethyl acetate:hexane, provides 631 mg of 4-chloro-7-fluoro-6-methoxy-3-quinolinecarbonitrile, mp 160-162° C.

reactant | 7-fluoro-6-methoxy-4-oxo-1,4-dihydro-3-quinolinecarbonitrile | 4.59 mmol, 1.0 g | FC1=C(C=C2C(C(=CNC2=C1)C#N)=O)OC | C11H7FN2O2
reactant | phosphorous oxychloride | 14 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-7-fluoro-6-methoxy-3-quinolinecarbonitrile | 631 mg | ClC1=C(C=NC2=CC(=C(C=C12)OC)F)C#N | C11H6ClFN2O
